US06251925B1
(R)-3′-[[2-[[2-(3-Chlorophenyl)-2-[[(tert-butyl)dimethylsilyl]oxy]ethyl][(tert-butoxy)carbonyl]amino]ethyl]amino]-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester as a white foam (1.3 g);
Electrospray MS (positive ion): (M+H) 697.6; from 3′-amino-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester (580 mg) and (R)-[(tert-butoxycarbonyl)-[2-(tert-butyldimethylsilanoxy)-2-(3-chlorophenyl)ethyl]amino]-acetaldehyde (1.5 g).

reactant | 3′-amino-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester | 580 mg | COC(=O)C=1C=C(C=CC1C(=O)OC)C1=CC(=CC=C1)N | C16H15NO4
reactant | (R)-[(tert-butoxycarbonyl)-[2-(tert-butyldimethylsilanoxy)-2-(3-chlorophenyl)ethyl]amino]-acetaldehyde | 1.5 g | C(C)(C)(C)OC(=O)N(C[C@@H](C1=CC(=CC=C1)Cl)O[Si](C)(C)C(C)(C)C)CC=O | C21H34ClNO4Si
product | (R)-3′-[[2-[[2-(3-Chlorophenyl)-2-[[(tert-butyl)dimethylsilyl]oxy]ethyl][(tert-butoxy)carbonyl]amino]ethyl]amino]-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester | COC(=O)C=1C=C(C=CC1C(=O)OC)C1=CC(=CC=C1)NCCN(C(=O)OC(C)(C)C)C[C@H](O[Si](C)(C)C(C)(C)C)C1=CC(=CC=C1)Cl | C37H49ClN2O7Si
